US04521422
A mixture of 5.9 g of (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone, 12.4 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethyl-4-methylbenzenesulfonamide and 200 ml of glacial acetic acid was refluxed for 18 hours, then cooled to room temperature and evaporated to dryness. The residue was partitioned between 200 ml of dichloromethane and 100 ml of saturated aqueous sodium bicarbonate. The dichloromethane layer was dried, then filtered through hydrous magnesium silicate and washed with 200 ml of dichloromethane. The filtrate and wash were combined with 200 ml of hexane, concentrated to 250 ml, diluted with 100 ml of hexane and concentrated to turbidity. A heavy oil formed which was separated and cooled to -10° C. producing a solid. This solid was washed with hexane and then dried in vacuo at 60° C. giving N-ethyl-N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-4-methylbenzenesulfonamide.

reactant | (3-amino-1H-pyrazol-4-yl)-2-furanylmethanone | 5.9 g | NC1=NNC=C1C(=O)C=1OC=CC1 | C8H7N3O2
reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethyl-4-methylbenzenesulfonamide | 12.4 g | CN(C=CC(=O)C=1C=C(C=CC1)N(S(=O)(=O)C1=CC=C(C=C1)C)CC)C | C20H24N2O3S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-ethyl-N-[3-[3-(2-furanylcarbonyl)pyrazolo[1,5-a]pyrimidin-7-yl]phenyl]-4-methylbenzenesulfonamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)C=2OC=CC2 | C26H22N4O4S
